US07163939B2
1-(allyloxy)-4-methyl-2-nitrobenzene
To a mixture of 4-methyl-2-nitro-phenol (1.50 g, 9.80 mmol) and K2CO3 (2.03 g, 14.7 mmol) in acetone (23 mL) was added allyl bromide (1.24 ml, 14.7 mmol). The reaction mixture was stirred at room temperature overnight. It was then heated at 40° C. for 6 hrs. Inorganic salts were filtered and washed with acetone. The filtrate was concentrated and the residue was purified by flash chromatograph eluting with hexane/EtOAc (95:5) to give 1.67 g (88%) of the desired product. MS (DCI/NH3) m/z: 211.0 (M+NH4)+; 1H NMR (300 MHz, DMSO-D6) δ ppm 2.30 (s, 3 H) 4.67–4.75 (m, 2 H) 5.27 (m, 1 H) 5.42 (m, 1 H) 5.97 (m, 1 H) 7.24 (d, J=8.48 Hz, 1 H) 7.45 (dd, J=8.65, 2.20 Hz, 1 H) 7.69 (d, J=2.37 Hz, 1 H).

reactant | 4-methyl-2-nitro-phenol | 9.80 mmol, 1.50 g | CC1=CC(=C(C=C1)O)[N+](=O)[O-] | C7H7NO3
reactant | K2CO3 | 14.7 mmol, 2.03 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 14.7 mmol, 1.24 ml | C(C=C)Br | C3H5Br
solvent | acetone | 23 mL | CC(=O)C | C3H6O
product | 1-(allyloxy)-4-methyl-2-nitrobenzene | 1.67 g, 88% | C(C=C)OC1=C(C=C(C=C1)C)[N+](=O)[O-] | C10H11NO3
